US04937371
A mixture of 7.60 g (0.021 mole) of 6-bromo-(6,7-dimethoxy-2-naphthalenyl)-1-hexanone, 5.96 g (0.021 mole) of 2,4-dihydroxy-3-propylbenzoic acid phenylmethyl ester, 5.75 g (0.042 mole) of potassium carbonate and 3.20 g (0.021 mole) of sodium iodide in 100 mL of acetone and 25 mL of dimethylformamide was stirred at reflux for 26 hours. The solvents were removed under reduced pressure and the crude product was purified by HPLC using 2% ethyl acetate-toluene, to give 8.14 g (69% yield) of 2-hydroxy-4-[[6,7-dimethoxy-2-naphthalenyl)-6-oxohexyl]oxy]-3-propylbenzoic acid phenylmethyl ester.

reactant | 6-bromo-(6,7-dimethoxy-2-naphthalenyl)-1-hexanone | 0.021 mole, 7.60 g | BrCCCCCC(=O)C1=CC2=CC(=C(C=C2C=C1)OC)OC | C18H21BrO3
reactant | 2,4-dihydroxy-3-propylbenzoic acid phenylmethyl ester | 0.021 mole, 5.96 g | C1(=CC=CC=C1)COC(C1=C(C(=C(C=C1)O)CCC)O)=O | C17H18O4
reactant | potassium carbonate | 0.042 mole, 5.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.021 mole, 3.20 g | [I-].[Na+]
solvent | acetone | 100 mL | CC(=O)C | C3H6O
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 3-propylbenzoic acid phenylmethyl ester | C1(=CC=CC=C1)COC(C1=CC(=CC=C1)CCC)=O | C17H18O2
